US07652015B2
4-(5-amino-3-chloro-pyridin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester
Place 4-(3-chloro-5-nitro-pyridin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester (3.09 g, 9.01 mmol) in methanol (50 mL). Add nickel(II) chloride hexahydrate (10.7 g, 45.1 mmol) and cool the reaction to 0° C. Add sodium borohydride (5.11 g, 135.15 mmol) in portions and stir at 0° C. for 2 hours. Add CH2Cl2 and filter through a pad of Celite®. Wash filter cake with CH2Cl2 and collect filtrate. Add saturated aq. sodium bicarbonate solution to the filtrate and separate organic layer. Extract aqueous layer with CH2Cl2 (2×30 mL). Combine organic extracts, dry over Mg2SO4, filter, and concentrate under reduced pressure. Subject residue to silica gel chromatography eluting with 0-70% EtOAc:hexane to yield 1.77 g (63%) of the title compound. MS(ES): m/z=311.2 [M−H].

reactant | 4-(3-chloro-5-nitro-pyridin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester | 9.01 mmol, 3.09 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=C(C=C1Cl)[N+](=O)[O-] | C14H19ClN4O4
reactant | sodium borohydride | 135.15 mmol, 5.11 g | [BH4-].[Na+]
solvent | methanol | 50 mL | CO | CH4O
catalyst | nickel(II) chloride hexahydrate | 45.1 mmol, 10.7 g | O.O.O.O.O.O.[Ni](Cl)Cl
product | 4-(5-amino-3-chloro-pyridin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester | 1.77 g, 63% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=C(C=C1Cl)N | C14H21ClN4O2
